US04005142
c. 1,17-Bis(3-amino-4-hydroxyphenyl)perfluoro-3,6,9,15-tetraoxaheptadecane (VIII)
1,17-Bis(3-nitro-4-hydroxyphenyl)perfluoro-3,6,9,15-tetraoxaheptadecane (3.00 g, 0.0030 mole) was dissolved in 180 ml of methanol and the solution deoxygenated by passing nitrogen through the boiling solution for 15 minutes. Concentrated hydrochloric acid (20 ml, 0.23 mole) and 10% Pd/C (0.30 g) were cautiously added to the cooled solution and catalytic reduction to the desired product took place over night at 50 psi of hydrogen. The catalyst was filtered off and the clear white solution evaporated to dryness under reduced pressure to yield the slightly off-white dihydrochloride salt. It was stirred vigorously in a water-ether mixture which was treated carefully with solid sodium bicarbonate. The ether layer was washed several times with water, dried over magnesium sulfate and evaporated to dryness. The residue was recrystallized twice from approximately 1400 ml of heptane (charcoal) to yield 1.41 g (50% yield) of slightly off-white product (VIII), m.p. 92°-95° C.

reactant | 1,17-Bis(3-nitro-4-hydroxyphenyl)perfluoro-3,6,9,15-tetraoxaheptadecane | 0.0030 mole, 3.00 g | [N+](=O)([O-])C=1C=C(C=CC1O)C(C(OC(C(OC(C(OC(C(C(C(C(OC(C(C1=CC(=C(C=C1)O)[N+](=O)[O-])(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C25H8F26N2O10
reactant | hydrochloric acid | 0.23 mole, 20 ml | Cl | ClH
solvent | methanol | 180 ml | CO | CH4O
catalyst | Pd/C | 0.30 g | [Pd] | Pd
product | 1,17-Bis(3-amino-4-hydroxyphenyl)perfluoro-3,6,9,15-tetraoxaheptadecane | NC=1C=C(C=CC1O)C(C(OC(C(OC(C(OC(C(C(C(C(OC(C(C1=CC(=C(C=C1)O)N)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C25H12F26N2O6
